US04533664
3.04 (10 mmols) of methyl 6-chloro-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide and 1.5 g (12 mmols) of 2-amino-6-chloro-pyrazine were reacted in 150 ml of xylene analogous to Example 2. 3.2 g (80% of theory) of 6-chloro-N-(6-chloro-pyrazin-2-yl)-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide were obtained.

reactant | methyl 6-chloro-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide | ClC=1C=CC2=C(C(=C(N(S2(=O)=O)C)C(=O)OC)O)C1 | C11H10ClNO5S
reactant | 2-amino-6-chloro-pyrazine | 12 mmols, 1.5 g | NC1=NC(=CN=C1)Cl | C4H4ClN3
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-chloro-N-(6-chloro-pyrazin-2-yl)-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | 3.2 g, 80% | ClC=1C=CC2=C(C(=C(N(S2(=O)=O)C)C(=O)NC2=NC(=CN=C2)Cl)O)C1 | C14H10Cl2N4O4S
